### PR TITLE
[Merged by Bors] - feat(RepresentationTheory/Homological/ContCohomology/Sha): define Tate-Shafarevich group

### PR DESCRIPTION
**Pull request by Whysoserioushah**
This PR defines the Tate-Shafarevich group in a general setting as intersections of kernels of the natural map between galois cohomology groups.

co-authored-by: @Multramate 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Multramate — APPROVED** [review]
Is this in the right file? Maybe we can call the file `tateSha`.

**Comment by tb65536** [comment]
Can you add a PR description?

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 1]
```diff
@@ -0,0 +1,72 @@
...
+
+When `V` is the set of places of a global field `K`, `A` is the set of rational points of an abelian
+variety over K, and `n = 1`, this recovers the classical definition of the Tate-Shafarevich group.
+-/
+
+@[expose] public section
+
+universe u
+
+variable {K V : Type u} [Field K] (f : V → Type u) [h : ∀ v : V, Field (f v)]
```
Comment (tb65536) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: Do we really need all of these to be the same universe?

Comment (tb65536) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: If we're planning on restricting the set of places, would it be better to add a `Set V` (analogous to how `Set.pi` takes a `Set`).

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 2]
```diff
@@ -0,0 +1,72 @@
...
+  rw [tateSha_eq_iInf, LinearMap.ker_pi]
+
+@[simp]
+lemma mem_tateSha (x : continuousCohomology n A) : x ∈ tateSha f A n ↔
+    letI (v : V) : Algebra (AlgebraicClosure K) (AlgebraicClosure (f v)) :=
+      IsAlgClosed.lift.toAlgebra
+    letI (v : V) : IsScalarTower K (AlgebraicClosure K) (AlgebraicClosure (f v)) :=
+      IsScalarTower.of_algebraMap_eq (IsAlgClosed.lift.commutes · |>.symm)
+    ∀ v : V, x ∈ (ContinuousCohomology.map
+      (Field.absoluteGaloisGroup.mapOfAlgebra K (f v)) (𝟙 _) n).hom.ker := by
```
Comment (tb65536) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: Is it possible to use `Field.absoluteGaloisGroup.map` directly to avoid having to define the algebra instances?

Comment (Whysoserioushah) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: changed

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 1 above)
Comment (Whysoserioushah) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: fixed

Comment (Whysoserioushah) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: Both `NumberField.FinitePlace` and `NumberField.InfinitePlace` are all `Type`s, hence I think maybe a function is nicer to work with

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 3]
```diff
@@ -0,0 +1,56 @@
...
+  [h' : ∀ v : V, Algebra K (f v)] (A : TopRep ℤ (Field.absoluteGaloisGroup K)) (n : ℕ)
+
+open CategoryTheory
+
+namespace ContinuousCohomology
+
+/-- The Tate-Shafarevich group of a continuous representation. -/
+@[simps!]
+noncomputable def tateSha : AddSubgroup (continuousCohomology n A) :=
+  iInf (fun v : V ↦ (ContinuousCohomology.map (k := ℤ) (X := A)
```
Comment (eric-wieser) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: Why not use the iInf notation?

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 4]
```diff
@@ -0,0 +1,56 @@
...
+# The Tate-Shafarevich group of a continuous representation
+
+This file defines a general notion of a Tate-Shafarevich group for a continuous representation `A`
+over a field `K`, as the intersection of the kernels of the maps `Hⁿ(K, A) → Hⁿ(Kᵥ, Aᵥ)`.
+
+Here `Kᵥ` is a `K`-algebra for each place `v` in an arbitrary indexing set `V`,
+which induces maps between absolute Galois groups and hence maps between cohomology groups.
+
+When `V` is the set of places of a global field `K`, `A` is the set of rational points of an abelian
+variety over K, and `n = 1`, this recovers the classical definition of the Tate-Shafarevich group.
```
Comment (eric-wieser) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: Can you add a reference at the end of the docstring?

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 5]
```diff
@@ -0,0 +1,56 @@
...
+-/
+
+@[expose] public section
+
+universe u v
+
+variable {K : Type u} {V : Type v} [Field K] (f : V → Type u) [h : ∀ v : V, Field (f v)]
+  [h' : ∀ v : V, Algebra K (f v)] (A : TopRep ℤ (Field.absoluteGaloisGroup K)) (n : ℕ)
```
Comment (eric-wieser) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: Is there a reason that you name `h` and `h'` here?

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 3 above)
Comment (Whysoserioushah) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: used, thanks!

**Comment by eric-wieser** [comment]
Wikipedia says

> It is known that the Tate–Shafarevich group is a [torsion group](https://en.wikipedia.org/wiki/Torsion_group)


Is this a short proof?

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 4 above)
Comment (Whysoserioushah) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: added, thanks!

**Comment by Multramate** [comment]
> Wikipedia says
> 
> > It is known that the Tate–Shafarevich group is a [torsion group](https://en.wikipedia.org/wiki/Torsion_group)
> 
> Is this a short proof?

I think this requires A to be torsion. Then it follows from the fact that if your Galois group is profinite then cohomology is torsion. I don't know if this already exists in mathlib but it might.

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 6]
```diff
@@ -0,0 +1,61 @@
...
+
+open CategoryTheory
+
+namespace ContinuousCohomology
+
+/-- The Tate-Shafarevich group of a continuous representation. -/
+@[simps!]
+noncomputable def tateSha : AddSubgroup (continuousCohomology n A) :=
+  ⨅ (v : V), (ContinuousCohomology.map (k := ℤ) (X := A)
+    (Field.absoluteGaloisGroup.map (algebraMap K (f v))) (𝟙 _) n).hom.toAddMonoidHom.ker
```
Comment (tb65536) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]:
```suggestion
  ⨅ v, (map (Field.absoluteGaloisGroup.map (algebraMap K (f v))) (𝟙 _) n).hom.toAddMonoidHom.ker
```

**Review by tb65536 — APPROVED** [review]

**Comment by tb65536** [comment]
Thanks!

maintainer delegate

**Review by eric-wieser — APPROVED** [review]
bors d+

Didn't I hear that you wanted to add scoped notation here?

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 7]
```diff
@@ -0,0 +1,60 @@
...
+* [Wikipedia, *Tate–Shafarevich group*](https://en.wikipedia.org/wiki/Tate%E2%80%93Shafarevich_group)
+
+-/
+
+@[expose] public section
+
+universe u v
+
+variable {K : Type u} {V : Type v} [Field K] (f : V → Type u) [∀ v : V, Field (f v)]
+  [∀ v : V, Algebra K (f v)] (A : TopRep ℤ (Field.absoluteGaloisGroup K)) (n : ℕ)
```
Comment (eric-wieser) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]:
```suggestion
variable {K : Type u} {V : Type v} [Field K] (f : V → Type u) [∀ v, Field (f v)]
  [∀ v, Algebra K (f v)] (A : TopRep ℤ (Field.absoluteGaloisGroup K)) (n : ℕ)
```

Comment (eric-wieser) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: Should this be `ι` instead of `V`?

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 8]
```diff
@@ -0,0 +1,60 @@
+/-
+Copyright (c) 2026 Yunzhou Xie. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Edison Xie, David Kurniadi Angdinata
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean:4]: Copyright Yunzhou, Author Edison? My instinct is that this will cause confusion (I know they're the same person but that's because they're both my PhD student!)

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 9]
```diff
@@ -0,0 +1,60 @@
...
+-/
+module
+
+public import Mathlib.FieldTheory.AbsoluteGaloisGroup
+public import Mathlib.RepresentationTheory.Homological.ContCohomology.Functoriality
+
+/-!
+# The Tate-Shafarevich group of a continuous representation
+
+This file defines a general notion of a Tate-Shafarevich group for a continuous representation `A`
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]:
```suggestion
This file defines a general notion of a Tate--Shafarevich group for a continuous representation `A`
```

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 7 above)
Comment (kbuzzard) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: The places of a number field are sometimes denoted `V`, but `V` is playing a role which is often denoted `ι` in mathlib.

**Review by kbuzzard — COMMENTED** [review]
(I'm in the middle of a review, here are some preliminary comments)

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 10]
```diff
@@ -0,0 +1,60 @@
...
+  [∀ v, Algebra K (f v)] (A : TopRep ℤ (Field.absoluteGaloisGroup K)) (n : ℕ)
+
+open CategoryTheory
+
+namespace ContinuousCohomology
+
+/-- The Tate-Shafarevich group of a continuous representation. -/
+@[simps!]
+noncomputable def tateSha : AddSubgroup (continuousCohomology n A) :=
+  ⨅ v, (map (Field.absoluteGaloisGroup.map (algebraMap K (f v))) (𝟙 _) n).hom.toAddMonoidHom.ker
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean:58]: This is *not* what it says in the module docstring, for two technical reasons.

1) H^1(K,X) means H^1(Gal(K^sep/K),X), not H^1(Gal(K-bar/K),X) (indeed Gal(K-bar/K) makes no sense mathematically)

2) You claim in the module docstring that Sha is the intersection of the kernels of H^1(K,A(Ksep))->H^1(Kv,A(Kvsep)), but I think that your definition is the intersection of the kernels of H^1(K,A(Ksep))->H^1(Kv,A(Ksep)) (the group changes but not the module). For a general A and K and f I don't see any reason why these should be the same. For an abelian variety over a global field with completions these things are the same but this is a nonobvious result and I don't think that this should be swept under the carpet.

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 11]
```diff
@@ -0,0 +1,60 @@
...
+universe u v
+
+variable {K : Type u} {V : Type v} [Field K] (f : V → Type u) [∀ v, Field (f v)]
+  [∀ v, Algebra K (f v)] (A : TopRep ℤ (Field.absoluteGaloisGroup K)) (n : ℕ)
+
+open CategoryTheory
+
+namespace ContinuousCohomology
+
+/-- The Tate-Shafarevich group of a continuous representation. -/
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: As I have said time and time again, when a mathematician says "continuous representation" they do *not* mean "term of type TopRep", they will have an additional hypothesis that the action of the group is continuous and this is missing from TopRep. This continues to bug me and I think that this issue should be flagged here in some way: I am saying that the docstring is "wrong" in a precise sense.

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 12]
```diff
@@ -0,0 +1,60 @@
...
+/-!
+# The Tate-Shafarevich group of a continuous representation
+
+This file defines a general notion of a Tate-Shafarevich group for a continuous representation `A`
+over a field `K`, as the intersection of the kernels of the maps `Hⁿ(K, A) → Hⁿ(Kᵥ, Aᵥ)`.
+
+Here `Kᵥ` is a `K`-algebra for each place `v` in an arbitrary indexing set `V`,
+which induces maps between absolute Galois groups and hence maps between cohomology groups.
+
+When `V` is the set of places of a global field `K`, `A` is the set of rational points of an abelian
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: This is not correct: A is not the rational points (which typically means K-points), it's the K^sep-points.

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 13]
```diff
@@ -0,0 +1,60 @@
...
+    tateSha f A n = ⨅ v : V, (ContinuousCohomology.map
+      (Field.absoluteGaloisGroup.map (algebraMap K (f v))) (𝟙 _) n).hom.toAddMonoidHom.ker := rfl
+
+lemma tateSha_eq_ker_pi :
+    tateSha f A n = (AddMonoidHom.pi fun v : V ↦ (ContinuousCohomology.map
+      (Field.absoluteGaloisGroup.map (algebraMap K (f v))) (𝟙 _) n).hom.toAddMonoidHom).ker := by
+  ext; simp [tateSha_eq_iInf, funext_iff]
+
+@[simp]
+lemma mem_tateSha (x : continuousCohomology n A) : x ∈ tateSha f A n ↔
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: This is a simp lemma but I'm not sure that the RHS is in simp normal form -- I think this `.ker` is `LinearMap.ker` and a simp lemma will then change `x \in blah.ker` to `blah x = 0`.

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 14]
```diff
@@ -0,0 +1,60 @@
...
+noncomputable def tateSha : AddSubgroup (continuousCohomology n A) :=
+  ⨅ v, (map (Field.absoluteGaloisGroup.map (algebraMap K (f v))) (𝟙 _) n).hom.toAddMonoidHom.ker
+
+lemma tateSha_eq_iInf :
+    tateSha f A n = ⨅ v : V, (ContinuousCohomology.map
+      (Field.absoluteGaloisGroup.map (algebraMap K (f v))) (𝟙 _) n).hom.toAddMonoidHom.ker := rfl
+
+lemma tateSha_eq_ker_pi :
+    tateSha f A n = (AddMonoidHom.pi fun v : V ↦ (ContinuousCohomology.map
+      (Field.absoluteGaloisGroup.map (algebraMap K (f v))) (𝟙 _) n).hom.toAddMonoidHom).ker := by
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean:66]: Why are you using `.hom.toAddMonoidHom.ker` in this lemma and `.hom.ker` in the next? You should choose a normal form.

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 15]
```diff
@@ -0,0 +1,60 @@
...
+This file defines a general notion of a Tate-Shafarevich group for a continuous representation `A`
+over a field `K`, as the intersection of the kernels of the maps `Hⁿ(K, A) → Hⁿ(Kᵥ, Aᵥ)`.
+
+Here `Kᵥ` is a `K`-algebra for each place `v` in an arbitrary indexing set `V`,
+which induces maps between absolute Galois groups and hence maps between cohomology groups.
+
+When `V` is the set of places of a global field `K`, `A` is the set of rational points of an abelian
+variety over K, and `n = 1`, this recovers the classical definition of the Tate-Shafarevich group.
+
+## Reference
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]:
```suggestion
## References
```
(this seems to be the norm)

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 13 above)
Comment (eric-wieser) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: Note that there is no requirement that the RHS be simpNF, but I think in this case it is indeed a good idea.

**Comment by Multramate** [comment]
On another note, I think we should call this file `SelmerSha` and add API for Selmer groups in the sense of Rubin.

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 10 above)
Comment (Multramate) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean:58]: Where did we say K-bar?

Comment (Multramate) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean:58]: Ahh `absoluteGaloisGroup` is in terms of K-bar, why is it not in terms of K-sep?

Comment (Multramate) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean:58]: OK, so the answer is mathlib's definition is wrong, and it's not our problem :)

Comment (tb65536) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean:58]: Well, these two definitions are the same :)

I'm planning on thinking about this a bit tomorrow morning.

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 13 above)
Comment (Whysoserioushah) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: fixed, thanks!

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 14 above)
Comment (Whysoserioushah) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean:66]: I turned it into `... x = 0` so it should be fine now!

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 11 above)
Comment (Whysoserioushah) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: Is "abelian addgroup with a galois action" a better description? :)

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 8 above)
Comment (Whysoserioushah) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean:4]: fixed!

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 11 above)
Comment (Multramate) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: "Abelian group with discrete continuous action" seems to be what e.g. Rubin assumes

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 10 above)
Comment (Multramate) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean:58]: The nonobvious result @kbuzzard mentions is Greenberg approximation I believe? We might have to take in a map A -> A_v instead? Unless we're willing to just modify the docstring to say we only need it when H^1(A) = H^1(A_v).

Comment (Whysoserioushah) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean:58]: For (1) we have #19616 to fix the issue, for (2) I agree maybe this is an unfixable issue for abstraction

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 16]
```diff
@@ -0,0 +1,61 @@
...
+public import Mathlib.FieldTheory.AbsoluteGaloisGroup
+public import Mathlib.RepresentationTheory.Homological.ContCohomology.Functoriality
+
+/-!
+# The Tate-Shafarevich group of a continuous representation
+
+This file defines a general notion of a Tate--Shafarevich group for a continuous representation `A`
+over a field `K`, as the intersection of the kernels of the maps `Hⁿ(K, A) → Hⁿ(Kᵥ, Aᵥ)`.
+
+Here `Kᵥ` is a `K`-algebra for each place `v` in an arbitrary indexing set `V`,
```
Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: You require `K_v` to be a field below so that you can make sense of Galois groups, not just as a `K-algebra`.

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 11 above)
Comment (JX-Mo) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: "abelian addgroup with a galois action" has a shorter name "Galois module"

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 10 above)
Comment (JX-Mo) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean:58]: An easy fix could be in the docstring changing`K_v` to the Henselization at a finite place instead of the local field, and real/algebraic closure at infinite places. You leave the completion stuff to another PR.

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 17]
```diff
@@ -0,0 +1,61 @@
...
+which induces maps between absolute Galois groups and hence maps between cohomology groups.
+
+When `V` is the set of places of a global field `K`, `A` is the set of rational points of an abelian
+variety over K, and `n = 1`, this recovers the classical definition of the Tate-Shafarevich group.
+
+## References
+
+* [Wikipedia, *Tate–Shafarevich group*](https://en.wikipedia.org/wiki/Tate%E2%80%93Shafarevich_group)
```
Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: Wikipedia is not always reliable or stable. For instance, the root datum in Wikipedia before 2016 even called X* the weight lattice. It would be better if you can find the original source.

Comment (Multramate) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: Yeah, we could use Milne's arithmetic duality theorems. We're also planning to do Selmer groups based on Rubin's Euler systems but they don't define Sha there.

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 10 above)
Comment (Multramate) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean:58]: Seems like the same coefficient module issue isn't actually an issue, because (1) for abelian varieties or elliptic curves the Sha's are the same thanks to Greenberg approximation, and (2) for Poitou--Tate duality we Sha-1 and Sha-2 of a finite G-module, and the coefficient modules are the same there!

**Comment by JX-Mo** [comment]
I feel like this PR should stay in some arithmetic geometry/abelian variety folder (which we don't have right now). I doubt how far can we under this generality, without the global arithemetic information or geometry. A better accommadation would be EllipticCurve and then generalize to abelian variety when available.

**Comment by Multramate** [comment]
I think we can get somewhere, but this file has nothing to do with arithmetic geometry and all to do with representation theory or continuous cohomology, so I say we keep it here. There will be another Selmer/Sha file for elliptic curves.

**Comment by JX-Mo** [comment]
> I think we can get somewhere, but this file has nothing to do with arithmetic geometry and all to do with representation theory or continuous cohomology, so I say we keep it here. There will be another Selmer/Sha file for elliptic curves.

If so, it would be great to include that in your PR description. Also, the name Tate-Shafarevich group strongly suggests arithmetic intention. `HeckeRing` in number theory, dealing with double coset, has nothing to with number theory! I still think it should stay in EllipticCurve or NumberTheory unless you replace the current `tateSha` by a more general name

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 10 above)
Comment (JX-Mo) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean:58]: The objection is about the current docstring, not about the correctness specialized to abelian varieties
```
This file defines a general notion of a Tate--Shafarevich group for a continuous representation `A`
over a field `K`, as the intersection of the kernels of the maps `Hⁿ(K, A) → Hⁿ(Kᵥ, Aᵥ)`.
```

**Comment by Multramate** [comment]
> > I think we can get somewhere, but this file has nothing to do with arithmetic geometry and all to do with representation theory or continuous cohomology, so I say we keep it here. There will be another Selmer/Sha file for elliptic curves.
> 
> If so, it would be great to include that in your PR description. Also, the name Tate-Shafarevich group strongly suggests arithmetic intention. `HeckeRing` in number theory, dealing with double coset, has nothing to with number theory! I still think it should stay in EllipticCurve unless you give it a more general name

Neukirch--Schmidt--Wingberg's cohomology of number fields calls this a "Safarevic--Tate group" in page 670, although for most of the book they just use the Cyrillic letter when the module is an arbitrary finite G-module. They will be in different namespaces anyway so Lean-wise it's fine, so it's just a matter of convention and how much docstring we want.

**Comment by JX-Mo** [comment]
> Neukirch--Schmidt--Wingberg's cohomology of number fields calls this a "Safarevic--Tate group" in page 670, although for most of the book they just use the Cyrillic letter when the module is an arbitrary finite G-module. They will be in different namespaces anyway so Lean-wise it's fine, so it's just a matter of convention and how much docstring we want.

There's no problem working with general groups and general modules. The point is that you won't call a `finite G-module` a Galois module unless G is indeed the Galois group of some field. Here `tateSha` is usually defined for global fields, but all this PR is about arbitrary indexing type and the construction is just `infKer` which is very far from the standard convention.

**Comment by Multramate** [comment]
> > Neukirch--Schmidt--Wingberg's cohomology of number fields calls this a "Safarevic--Tate group" in page 670, although for most of the book they just use the Cyrillic letter when the module is an arbitrary finite G-module. They will be in different namespaces anyway so Lean-wise it's fine, so it's just a matter of convention and how much docstring we want.
> 
> There's no problem working with general groups and general modules. The point is that you won't call a `finite G-module` a Galois module unless G is indeed the Galois group of some field. Here `tateSha` is usually defined for global fields, but all this PR is about arbitrary indexing type and the construction is just `infKer` which is very far from the standard convention.

What is your suggestion for a better name or a clarifying docstring? I'd want to keep the file here, and mention that there will be another file in EllipticCurve importing this eventually. I looked through some articles mentioning general constructions (e.g. https://arxiv.org/pdf/2607.15372) and they all call it Tate--Shafarevich (for good reasons).

**Comment by JX-Mo** [comment]
Thanks for the reference. The paper you cite suggests very classical global use where the indexing type V is just all geometric places and takes H^1, not H^n. We should reserve the well-known `tateSha` for those `iInfKer` at `H^1` expected to have (or close to have) exceptional finiteness properties (note that for elliptic curves, your `tateSha^1` could be infinite even if only one place is removed). It's OK for me if you want to keep it in RepresentationTheory, but definitely not with this name `tateSha`. An option could be `locallyTrivialClass`, justified by the mathematical content:
$$[a] \in iInfKer^n(K,A)$$ is sent to $$[a_v] = 0$$ for the chosen $$v \in V$$.

**Comment by Multramate** [comment]
Yeah, I'm happy with `locallyTrivial`. I want to say "everywhere locally soluble" is pretty common but it doesn't apply here.

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 18]
```diff
@@ -0,0 +1,75 @@
...
+This file defines a general notion of a *Tate–Shafarevich group* of a Galois module (i.e. an abelian
+group `A` equipped with a continuous action of the absolute Galois group `G_K` of a field `K`), as
+the intersection of the kernels of the maps `Hⁿ(K, A) → Hⁿ(Kᵥ, A)`, induced by the map `G_Kᵥ → G_K`,
+where `Kᵥ` is a field extension of `K` for each `v` in an arbitrary indexing set `V`.
+
+## Main definitions
+
+* `ContinuousCohomology.tateShafarevich`: the Tate–Shafarevich group of a Galois module.
+* TODO: notation for the Tate–Shafarevich group `ContinuousCohomology.tateShafarevich`.
+* TODO: define the classical Tate–Shafarevich group in `Mathlib/AlgebraicGeometry/EllipticCurve`.
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: Please move all TODOs to a TODO section. Maybe if you had done 5 things and were going to do one thing then this would be OK, but the splits here are 1/2 and 0/1 which just looks weird to me.

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 17 above)
Comment (kbuzzard) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: Wikipedia pre-2016 is not really something we should be judging current Wikipedia on. Certainly it is true that many years ago I was actively encouraging my students not to look at Wikipedia and instead to go to the source; but now I encourage them to look at Wikipedia.

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 10 above)
Comment (kbuzzard) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean:58]: Yes. The separable closure issue is not a concern of this PR, and so all we need to do is to ensure that the docstrings flag this subtlety.

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 18 above)
Comment (Whysoserioushah) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: I believe @Multramate has moved it!

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 19]
```diff
@@ -0,0 +1,75 @@
...
+* Prove that `ContinuousCohomology.tateShafarevich` of a discrete Galois module is torsion.
+* Define the classical Tate–Shafarevich group in `Mathlib/AlgebraicGeometry/EllipticCurve`.
+
+## Implementation notes
+
+The generality of this definition will be useful to define the Tate–Shafarevich groups occurring in
+Poitou–Tate duality. When `K` is a global field, `V` is the set of places of `K`, `A` is the group
+of rational points of an abelian variety over the separable closure `Kˢ` of `K`, and `n = 1`, this
+recovers the classical definition of the Tate–Shafarevich group of an abelian variety, since
+`Hⁿ(Kᵥ, A(Kˢ)) ≅ Hⁿ(Kᵥ, A(Kᵥˢ))` by the Greenberg approximation theorem.
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]:
```suggestion
Mathematicians seem to use "Tate-Shafarevich group" in two distinct contexts.
They have in common the set-up that `K` is a global field, `A` is a discrete `G_K`-module,
`V` is the set of places of `K`, and `Kᵥ` is the completion of `K` at `v : V`.

The first context is when `A` is finite. This is used, for example, in the
statement of global Poitou-Tate duality. In this theorem, `Шⁿ(K,A)` is the Tate-Shafarevich
group defined exactly as in this file. It agrees with Definition 8.6.2 of
[Neukirch–Schmidt–Wingberg] .

The second context is when `A` is the `Kˢᵉᵖ`-valued points of a group scheme `J`
such as an abelian variety. Then `Ш(K,A)` is usually defined as the intersection
of the kernels of the maps `H¹(G_K,J(Kˢᵉᵖ)) → H¹(G_{Kᵥ},J(Kᵥˢᵉᵖ))`. Note that in
particular the module changes as well as the group, so technically this is
not quite what is happening in this definition. However the inclusion
`H¹(G_{Kᵥ},J(Kᵥˢᵉᵖ)) → H¹(G_{Kᵥ},J(Kˢᵉᵖ))` is an isomorphism by the Greenberg
approximation theorem, so the definition in this file is still mathematically
correct.
```

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 10 above)
Comment (kbuzzard) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean:72]: I've added an explanation in the module docstring.

**Review by kbuzzard — APPROVED** [review]

**Comment by kbuzzard** [comment]
> > Wikipedia says
> > > It is known that the Tate–Shafarevich group is a [torsion group](https://en.wikipedia.org/wiki/Torsion_group)
> > 
> > 
> > Is this a short proof?
> 
> I think this requires A to be torsion. Then it follows from the fact that if your Galois group is profinite then cohomology is torsion. I don't know if this already exists in mathlib but it might.

No! A=E(K^sep) in the application, which is not torsion. It requires A to be discrete (all stabilisers open), G to be profinite, and n>=1, and then it follows from the result that it's a subgroup of a torsion group, with the H^n (n>=1) being torsion becasue it's a filtered colimit of group cohomology groups for finite groups, which are torsion because they're killed by the group order.

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 20]
```diff
@@ -0,0 +1,91 @@
...
+
+## TODOs
+
+* Add a notation for `ContinuousCohomology.tateShafarevich`.
+* Prove that `ContinuousCohomology.tateShafarevich` of a discrete Galois module is torsion.
+* Define the classical Tate–Shafarevich group in `Mathlib/AlgebraicGeometry/EllipticCurve`.
+
+## Implementation notes
+
+Mathematicians seem to use "Tate–Shafarevich group" in at least two distinct contexts. They have in
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]:
```suggestion
Mathematicians seem to use "Tate–Shafarevich group" in at least three distinct contexts. They have in
```

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 21]
```diff
@@ -0,0 +1,91 @@
...
+It agrees with Definition 8.6.2 of [Neukirch–Schmidt–Wingberg].
+
+The second context is when `A` is the `Kˢ`-valued points of a group scheme `A` such as an abelian
+variety. Then the Tate–Shafarevich group is usually defined as the intersection of the kernels of
+the maps `H¹(K, A(Kˢ)) → H¹(Kᵥ, A(Kᵥˢ))`. Note that in particular the module changes as well as the
+group, so technically this is not quite what is happening in this definition. However the inclusion
+`H¹(Kᵥ, A(Kᵥˢ)) → H¹(Kᵥ, A(Kˢ))` is an isomorphism by the Greenberg approximation theorem, so the
+definition in this file is still mathematically correct. See Remark I.3.10 of [Milne].
+
+This definition is different but related to the "Tate–Shafarevich group" in the context of `p`-adic
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: Say something about a third context.

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 22]
```diff
@@ -0,0 +1,91 @@
...
+representations, where `A` is the quotient of a `p`-adic `G_K`-module by a `G_K`-invariant lattice.
+See Section 1 of [Flach]. For instance, when `A` is the quotient of the `p`-adic rational Tate
+module of an abelian variety by its integral sublattice, its associated Tate–Shafarevich group will
+be a quotient of the one in this file by its divisible part, which will be finite by definition.
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]:
```suggestion
be a quotient of the one in this file by its divisible part.
```
What do you mean by "by definition"? Just remove this (or explain it!)

**Comment by kbuzzard** [comment]
Still not 100% happy with the docs but all my suggestions are easy fixes. I also changed the commit message, I don't think we should be talking about "Sha" in a one-line summary, this is not something you can google. 

bors d+

**Comment by Multramate** [comment]
> > > Wikipedia says
> 
> > > > It is known that the Tate–Shafarevich group is a [torsion group](https://en.wikipedia.org/wiki/Torsion_group)
> 
> > > 
> 
> > > 
> 
> > > Is this a short proof?
> 
> > 
> 
> > I think this requires A to be torsion. Then it follows from the fact that if your Galois group is profinite then cohomology is torsion. I don't know if this already exists in mathlib but it might.
> 
> 
> 
> No! A=E(K^sep) in the application, which is not torsion. It requires A to be discrete (all stabilisers open), G to be profinite, and n>=1, and then it follows from the result that it's a subgroup of a torsion group, with the H^n (n>=1) being torsion becasue it's a filtered colimit of group cohomology groups for finite groups, which are torsion because they're killed by the group order.

Yeah my comment was wrong, but the docstrings are correct :)

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 23]
```diff
@@ -0,0 +1,88 @@
...
+public import Mathlib.FieldTheory.IsSepClosed
+public import Mathlib.FieldTheory.AbsoluteGaloisGroup
+public import Mathlib.RepresentationTheory.Homological.ContCohomology.Functoriality
+
+/-!
+# The Tate–Shafarevich group of a Galois module
+
+This file defines a general notion of a *Tate–Shafarevich group* of a Galois module (i.e. an abelian
+group `A` equipped with a continuous action of the absolute Galois group `G_K` of a field `K`), as
+the intersection of the kernels of the maps `Hⁿ(K, A) → Hⁿ(Kᵥ, A)`, induced by the map `G_Kᵥ → G_K`,
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]:
```suggestion
the intersection of the kernels of the maps `Hⁿ(G_K, A) → Hⁿ(G_Kᵥ, A)`, induced by the map `G_Kᵥ → G_K`,
```
The notation H^n(K,A) is usually used for fppf sheaves right?

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 24]
```diff
@@ -0,0 +1,88 @@
...
+
+Mathematicians seem to use "Tate–Shafarevich group" in at least three distinct contexts. They have
+in common the set-up that `K` is a global field, `A` is a discrete `G_K`-module, `V` is the set of
+places of `K`, and `Kᵥ` is the completion of `K` at a place `v` in `V`.
+
+The first context is when `A` is finite. This is used, for example, in the statement of global
+Poitou-Tate duality. In this theorem, the Tate–Shafarevich group is defined exactly as in this file.
+It agrees with Definition 8.6.2 of [Neukirch–Schmidt–Wingberg].
+
+The second context is when `A` is the `Kˢ`-valued points of a group scheme `A` such as an abelian
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]:
```suggestion
The second context is when `A` is the `Kˢ`-valued points of a group scheme `J` such as an abelian
```
You can't have A being the points of A.

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 25]
```diff
@@ -0,0 +1,88 @@
...
+variety. Then the Tate–Shafarevich group is usually defined as the intersection of the kernels of
+the maps `H¹(K, A(Kˢ)) → H¹(Kᵥ, A(Kᵥˢ))`. Note that in particular the module changes as well as the
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]:
```suggestion
the maps `H¹(G_K, J(Kˢ)) → H¹(G_Kᵥ, J(Kᵥˢ))`. Note that in particular the module changes as well as the
```

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean [hunk 26]
```diff
@@ -0,0 +1,88 @@
...
+group, so technically this is not quite what is happening in this definition. However the inclusion
+`H¹(Kᵥ, A(Kᵥˢ)) → H¹(Kᵥ, A(Kˢ))` is an isomorphism by the Greenberg approximation theorem, so the
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]:
```suggestion
`H¹(G_Kᵥ, A(Kᵥˢ)) → H¹(G_Kᵥ, A(Kˢ))` is an isomorphism by the Greenberg approximation theorem, so the
```

File: Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean (hunk 23 above)
Comment (Multramate) [reply Mathlib/RepresentationTheory/Homological/ContCohomology/Sha.lean]: I've always seen Galois cohomology using H^n(K, A)

**Comment by Whysoserioushah** [comment]
Ok I think this PR should be okay now after many rounds of reviews and fixing!

bors r+
